US07652023B2
To a solution of (S,Z)-methyl N′-benzoyl-N-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)carbamimidothioate (58 mg, 0.1 mmol) and TEA (28 μL, 0.2 mmol) in CH3CN (1 mL) was added drop wise a solution of AgNO3 (26 mg, 0.15 mmol) in CH3CN (1 mL), followed by the addition of NH2NH2 (10 μL, 0.1 mmol). The reaction mixture was heated at 60° C. for 1 h and allowed to cool to room temperature. The solid was removed by filtration and the filtrate was concentrated. The residue was purified by ISCO chromatography (4 g column) using hexanes/EtOAc (0-30%) over 10 min to give (S)-N-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)-5-phenyl-4H-1,2,4-triazol-3-amine as a white solid (36 mg, 69% yield). LCMS: RT=4.25 min [M+H] 520.97 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm). NMR: 400 MHz 1H (CDCl3) 7.77 ppm, 2H, dd, J=7.83, 1.52 Hz; 7.37 ppm, 4H, m; 7.26 ppm, 4H, m; 7.10 ppm, 3H, m; 6.98 ppm, 2H, m; 6.63 ppm, 2H, d, J=7.33 Hz; 3.97 ppm, 1H, m; 3.85 ppm, 1H, m.

reactant | (S,Z)-methyl N′-benzoyl-N-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)carbamimidothioate | 0.1 mmol, 58 mg | C(C1=CC=CC=C1)(=O)\N=C(\N[C@@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)C1=CC(=CC(=C1)C(F)(F)F)F)/SC | C30H23F5N2OS
reactant | NH2NH2 | 0.1 mmol, 10 μL | NN | H4N2
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | CH3CN | 1 mL | CC#N | C2H3N
catalyst | AgNO3 | 0.15 mmol, 26 mg | [N+](=O)([O-])[O-].[Ag+]
product | (S)-N-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)-5-phenyl-4H-1,2,4-triazol-3-amine | 36 mg, 69% yield | FC=1C=C(C=C(C1)C(F)(F)F)[C@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)NC1=NN=C(N1)C1=CC=CC=C1 | C29H21F5N4
